.subckt another_noisy_source in out

** NOISE SOURCE **
i out in PWL file=/Users/torque/programs/spice-daemon/test2/.spice-daemon-data/module_another_noisy_source.csv

.ends another_noisy_source

.subckt my_noisy_source_1 in out

** NOISE SOURCE **
v out in PWL file=/Users/torque/programs/spice-daemon/test2/.spice-daemon-data/module_my_noisy_source_1.csv

.ends my_noisy_source_1

